US04260815
To a portion (1100 mls out of a total of 4800 mls) of the mother liquor plus methanol wash liquor obtained from resolution B, containing about 2.4 moles of a mixture of diastereomers, consisting of about 2.25 moles of (-)-2-amino-1-butanol L-(+)-mandelate and about 0.15 mole of (-)-2-amino-1-butanol D-(-)-mandelate, is added 180 grams of potassium hydroxide (88.8% real; 2.85 moles) to obtain a solution having an initial αD25° C of +24.7° ("as is", 10 cm cell). The solution is then heated at 115°-116° C. under pressure (40 psi) for 4 hours to obtain a mandelic acid solution having an αD25° C. of -3.0° ("as is", 10 cm cell). The resulting solution is essentially racemized, the negative rotation being due to the presence of the (-)-2-amino-1-butanol.

reactant | (-)-2-amino-1-butanol L-(+)-mandelate | about 2.25 moles | C([C@@H](O)C1=CC=CC=C1)(=O)OCC(CC)N | C12H17NO3
reactant | (-)-2-amino-1-butanol D-(-)-mandelate | about 0.15 mole | C([C@H](O)C1=CC=CC=C1)(=O)OCC(CC)N | C12H17NO3
reactant | potassium hydroxide | 2.85 moles, 180 grams | [OH-].[K+]
product | mandelic acid | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
